US04814510
4-(1-Methoxy-1-methylethyl)benzaldehyde dimethyl acetal (1.8 kg) and water (1.8 kg) are heated in a stirred flask for about 1 h under reflux at 87° C. The mixture is cooled to about 25° C., and the two phases are separated. The organic phase is distilled with a head pressure of 4 mbar and head temperature of 105°-108° C. 4-(1-Methoxy-1-methylethyl)benzaldehyde (1314.6 g) is obtained. HNMR: (CH3)2C-- 1.55 ppm (s), --OCH3 3.1 ppm (s), ArH 7.6 ppm (d), 7.90 ppm (d), --CHO 10.0 ppm (s). nD25 =1.5264. The yield is 97.3%.

reactant | 4-(1-Methoxy-1-methylethyl)benzaldehyde dimethyl acetal | 1.8 kg | COC(C1=CC=C(C=C1)C(C)(C)OC)OC | C13H20O3
solvent | water | 1.8 kg | O | H2O
product | 4-(1-Methoxy-1-methylethyl)benzaldehyde | 1314.6 g, yield is 97.3% | COC(C)(C)C1=CC=C(C=O)C=C1 | C11H14O2
